US07977358B2
{5-[3-(3,4-Dichloro-phenylethynyl)-phenyl]-4-methyl-1H-pyrazol-3-yl}-(3-diethylamino-pyrrolidin-1-yl)-methanone
In analogy to the procedure described in Example 31F], 1,2-dichloro-4-iodobenzene and (3-diethylamino-pyrrolidin-1-yl)-[5-(3-ethynyl-phenyl)-4-methyl-1H-pyrazol-3-yl]-methanone (Example 31E]) gave the title compound in 71% yield yellow foam. MS: 495.2 (MH+, 2 Cl).

reactant | 1,2-dichloro-4-iodobenzene | ClC1=C(C=C(C=C1)I)Cl | C6H3Cl2I
reactant | (3-diethylamino-pyrrolidin-1-yl)-[5-(3-ethynyl-phenyl)-4-methyl-1H-pyrazol-3-yl]-methanone | C(C)N(C1CN(CC1)C(=O)C1=NNC(=C1C)C1=CC(=CC=C1)C#C)CC | C21H26N4O
product | {5-[3-(3,4-Dichloro-phenylethynyl)-phenyl]-4-methyl-1H-pyrazol-3-yl}-(3-diethylamino-pyrrolidin-1-yl)-methanone | ClC=1C=C(C=CC1Cl)C#CC=1C=C(C=CC1)C1=C(C(=NN1)C(=O)N1CC(CC1)N(CC)CC)C | C27H28Cl2N4O
